US05077075
The mixture as defined in claim 1 including citric acid, malic acid, an ascorbic acid and other organic acids inherent in fruits to give a titratable acid level of 0.15 to 0.8 percent.

reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | malic acid | C(C(O)CC(=O)O)(=O)O | C4H6O5
product | ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
